US06969711B2
Potassium O-ethyl dithiocarbonate (241 mg, 1.5 mmol) was added to a solution of 3-amino-2-hydroxyacetophenone (113 mg, 0.75 mmol) in ethanol (10 ml) and the mixture was heated to reflux for 16 hours. The reaction was concentrated, water (20 ml) was added thereto and the mixture was adjusted to pH, 3-4 with diluted hydrochloric acid. The separated matter was collected by filtration and dried by heating in vacuo to provide 134 mg (yield 92%) of 7-acetyl-2-mercaptobenzooxazole as a dark solid.

reactant | Potassium O-ethyl dithiocarbonate | 1.5 mmol, 241 mg | C([S-])(OCC)=S.[K+]
reactant | 3-amino-2-hydroxyacetophenone | 0.75 mmol, 113 mg | CC(=O)C1=C(C(=CC=C1)N)O | C8H9NO2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 7-acetyl-2-mercaptobenzooxazole | 134 mg, yield 92% | C(C)(=O)C1=CC=CC=2N=C(OC21)S | C9H7NO2S
